US05420291
[R-(R*,R*)]-5-(3-Chlorophenyl)-3-[2-(3,4-dihydroxyphenyl)-1-methylethyl]-2-oxazolidinone
Twenty grams of [R-(R*,R*)]-5-(3-chlorophenyl)-3-[2-(3,4-dimethyloxyphenyl)-1-methylethyl]-2-oxazolidinone, prepared by the procedure described in U.S. Pat. No. 5.061,727, is dissolved in 100 ml of methylene chloride and cooled to 5° C. under a stream of argon. Ten ml of boron tribromide in 10 ml of methylene chloride is added dropwise over 25 minutes. The reaction mixture is stirred for 20 minutes at 0°-5° C. One hundred and fifty ml of methyl alcohol is added over 40 minutes and the reaction is allowed to warm to room temperature over 1 hour. The solvent is removed by distillation (pot temperature 90° C.) leaving an oil in the bottom of the flask. The reaction flask is charged with 36.9 g of methyl alcohol, cooled to room temperature and 148 g of water is added over 1.5 hours. The reaction is stirred at room temperature for 72 hours, followed by cooling to 5° C. and stirring at this temperature for 1 hour. The resulting precipitate is collected, rinsed with water, and dried to give 17.1 g of the desired product (Yield 92.7% theory).

reactant | 5-(3-chlorophenyl)-3-[2-(3,4-dimethyloxyphenyl)-1-methylethyl]-2-oxazolidinone | ClC=1C=C(C=CC1)C1CN(C(O1)=O)C(CC1=CC(=C(C=C1)OC)OC)C | C20H22ClNO4
reactant | boron tribromide | Ten ml | B(Br)(Br)Br | BBr3
reactant | methyl alcohol | One hundred and fifty ml | CO | CH4O
reactant | methyl alcohol | 36.9 g | CO | CH4O
reactant | water | 148 g | O | H2O
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | 5-(3-Chlorophenyl)-3-[2-(3,4-dihydroxyphenyl)-1-methylethyl]-2-oxazolidinone | 17.1 g, Yield 92.7% | ClC=1C=C(C=CC1)C1CN(C(O1)=O)C(CC1=CC(=C(C=C1)O)O)C | C18H18ClNO4
